US06204249B1
3,4,5-Trichloro-1,2-phenylenediamine
6-Nitro-2,3,4-trichloroaniline (17.6 g, 72.8 mmol), iron powder (140 g, 250 mmol), and ethanol (400 mL) were combined and the resulting suspension was cooled to 0° C. Concentrated hydrochloric acid (37%, 93 mL, 1.14 mol) was added dropwise over a period of 15 min by means of an addition funnel. When the addition was complete, the resulting suspension was heated to reflux for 3.5 h, after which time it was allowed to cool to room temperature and was subsequently diluted with water (2 L). The pH of the mixture was adjusted to approximately 8 by the slow addition of sodium carbonate. The product was extracted with ethyl acetate (2 L), dried over magnesium sulfate and the solvents were removed under reduced pressure by rotary evaporation. The product was further purified by silica gel chromatography using 65:35 hexane/ethyl acetate to afford 10.9 g (72%) of a tan solid; m.p. 113-115° C. Anal. Calcd for C6H5Cl3N2: C, 34.08; H, 2.38; N, 13.25. Found: C, 34.14; H, 2.41; N, 13.18.

reactant | 6-Nitro-2,3,4-trichloroaniline | 72.8 mmol, 17.6 g | [N+](=O)([O-])C1=CC(=C(C(=C1N)Cl)Cl)Cl | C6H3Cl3N2O2
reactant | ethanol | 400 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1.14 mol, 93 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2 L | O | H2O
catalyst | iron | 250 mmol, 140 g | [Fe] | Fe
product | 3,4,5-Trichloro-1,2-phenylenediamine | 10.9 g, 72% | ClC=1C(=C(C=C(C1Cl)Cl)N)N | C6H5Cl3N2
